Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypoxia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with past medical history of COPD (not on 
home O2), VCA (___), ?heart disease who presented from home 
due to an unresponsive episode. Per family, the patient 
reportedly had a cough for last few days. On ___, the patient 
complained of shortness of breath, chest pain and stated that 
she felt like she was "going to die." Her family gave her 
nitroglycerin, but patient became unresponsive and family called 
EMS. In route to the hospital, patient was more responsive on 
oxygen. In the ___ ED, the patient was opening eyes and 
speaking. She denied chest pain, shortness of breath, or 
abdominal pain but did endorse back pain. She was noted to have 
rhonchorous breath sounds on physical exam.

In the ED, 
- Initial Vitals:
97.7, 78, 142/77, 30, 94% Non-Rebreather  

- Labs:
6.4 > 12.2/36.7  < ___  15    AGap=16 
-------------< 247 
5.5  17  1.2 

Ca: 9.1 Mg: 1.9 P: 6.3

___: 12.4  PTT: 28.6  INR: 1.1  

FluAPCR: Negative 
FluBPCR: Negative

Trop-T: 0.02 
Lactate:3.8
K:4.6
pH: 7.24, pCO2: 49, pO2: 92 
Serum ASA, EtOH, Acetmnphn, Tricyc Negative 

- Imaging:

CXR ___   
Right lower lobe and retrocardiac opacities could represent 
atelectasis or pneumonia in appropriate clinical setting. 

- Consults: None

- Interventions:
IV MethylPREDNISolone Sodium Succ 125 mg  
Ipratropium-Albuterol Neb x3
IV MetroNIDAZOLE 500 mg   
IV CefePIME 2 g
IV NS 500 mL
 
Past Medical History:
Asthma/COPD
- CAD s/p PCI to ___ and RCA ___ and subsequent NSTEMI in ___ 
and ___ STEMI medically managed ___
- Hypertension  
- HLD
- Constipation
- Peripheral vascular disease with infrapopliteal disease 
- Adjustment disorder with depressed mood  
- s/p L eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died two days after she was born and 
she never knew her father. 
 
Physical Exam:
ADMISSION EXAM
====================
VS: Reviewed in Metavision
GEN: ___ only, alert and interactive, NAD
EYES: sclera anicteric
HENNT: NC/AT, MMM, OP clear, EOMI
CV: RRR, no m/r/g
RESP: CTAB, unlabored respirations
GI: abdomen soft, NTND, normoactive bowel sounds throughout
SKIN: no rashes
NEURO: A/Ox3, moving all four extremities with purpose

DISCHARGE EXAM
====================
VS: 97.2 PO 138 / 70 R Lying 77 18 97 Ra   
General: frail appearing elderly woman, alert, oriented, in no
acute distress
HEENT: PERRLA, sclera anicteric, MMM, oropharynx clear
Neck: supple, no LAD, large EJ, JVD ~8 cm at 30 degrees
Resp: R-sided expiratory wheezes
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
GI: soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding,
MSK: warm, well perfused, no clubbing, cyanosis or edema
Neuro: A&Ox3, motor function grossly normal
 
Pertinent Results:
ADMISSION LABS
==================
___ 04:20AM BLOOD WBC-6.4 RBC-3.91 Hgb-12.2 Hct-36.7 MCV-94 
MCH-31.2 MCHC-33.2 RDW-13.2 RDWSD-45.2 Plt ___
___ 04:20AM BLOOD Neuts-63.9 ___ Monos-7.8 Eos-2.8 
Baso-0.8 Im ___ AbsNeut-4.07 AbsLymp-1.54 AbsMono-0.50 
AbsEos-0.18 AbsBaso-0.05
___ 04:20AM BLOOD ___ PTT-28.6 ___
___ 04:20AM BLOOD Glucose-247* UreaN-15 Creat-1.2* Na-135 
K-5.5* Cl-102 HCO3-17* AnGap-16
___ 04:20AM BLOOD cTropnT-0.02*
___ 04:20AM BLOOD Calcium-9.1 Phos-6.3* Mg-1.9
___ 04:20AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

MICROBIOLOGY
===================
   Respiratory Viral Culture (Preliminary): 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 

   MRSA SCREEN (Final ___:    No MRSA isolated. 

RELEVANT STUDIES
===================
EXAMINATION:  CHEST (PORTABLE AP) 
  
INDICATION:  ___ year old woman with short of breath// 
?aspiration      
?aspiration 
  
IMPRESSION:  
  
Comparison to ___.  No relevant change is noted.  
The lung 
volumes are normal.  Moderate cardiomegaly with evidence of mild 
pulmonary 
edema.  Mild retrocardiac atelectasis.  No pneumonia.  No 
pleural effusions. 

DISCHARGE LABS
===================
___ 06:07AM BLOOD WBC-8.1 RBC-3.28* Hgb-10.0* Hct-30.8* 
MCV-94 MCH-30.5 MCHC-32.5 RDW-13.6 RDWSD-46.6* Plt ___
___ 06:07AM BLOOD Plt ___
___ 06:07AM BLOOD ___ PTT-29.5 ___
___ 06:07AM BLOOD Glucose-147* UreaN-24* Creat-1.2* Na-141 
K-4.5 Cl-105 HCO3-23 AnGap-13
___ 06:07AM BLOOD Calcium-8.8 Phos-3.3 Mg-2.___SSESSMENT/PLAN:
Ms. ___ ___ ___ speaking woman with 
significant cardiac history of CAD c/b STEMI in ___, 
medically managed per family decision, also with HTN, PVD, 
asthma and COPD presenting with acute dyspnea, chest pain and 
AMS likely in setting of aspiration event at home all of which 
are now resolved. 

ACUTE ISSUES
============
# Dysphagia:
# Aspiration event:
Patient had acute onset dyspnea overnight on ___ prompting ED
admission. Per history, patient intermittently develops this and
likely related to aspirations. In the ED, she did not receive 
antibiotic because she did not appear to have PNA clinically. 
However, she had continued dyspnea on the medicine floor for 
which she was treated for COPD exacerbation with improvement 
with treatment. 
- Consider S&S re-evaluation as outpatient, with emphasis on 
teaching with family to prevent recurrence at home 
- Dysphagia diet: pureed solids, nectar pre-thickened liquids

# Goals of ___
Previous ___ discussions have occurred both 
inpatient/outpatient.
Patient was full code during previous admission. Daughter
reported mother asked her not to call EMS and "wanted to die at
home" but daughter called EMS given her concern. Would continue
to re-address. 
- Continue to address ___

# ___ - resolving
Cr 1.2 from prior baseline of 0.9. Likely pre-renal I/s/o known
decreased PO intake at home and possible contribution from 
possible hypotension in setting of SLNG doses at home. Now 
resolving to 1.1 with increased PO intake. 

# Type II NSTEMI - resolved
Likely demand I/s/o hypotensive episode after taking SL NTG. 
Troponin elevation 0.02 and patient has no chest pain currently. 
Will defer heparin gtt given type II event. 

# AMS - resolved 
Patient became unresponsive at home after
receiving Nitroglycerin SL x3. Patient was endorsing "chest 
pain"
which was likely non-cardiac in origin and related to aspiration
event. Her elevated lactate on admission which rapidly resolved
was likely due to this. 

CHRONIC ISSUES
==============
# CAD s/p PCI and STEMI: 
- Continue Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest pain
- Continue Clopidogrel 75 mg PO DAILY 
- Continue Apixaban 2.5 mg PO BID 
- Continue Atorvastatin 80 mg PO QPM 

# HFrEF
# HTN
TTE s/p STEMI w/ apical dyskinesis, anteroapical akinesis, and 
inferolateral akinesis. LVEF 35-40% (___). Notably, her 
proBNP is elevated to 
- Continue Isosorbide Mononitrate (Extended Release) 60 mg PO
DAILY 
- Continue Metoprolol Succinate XL 50 mg PO DAILY
- Hold Losartan Potassium 25 mg PO DAILY I/s/o ___, restart once
resolved

# COPD, Asthma: continued home medications including PRN 
albuterol inhaler, advair and duo nebs

# PVD with peripheral neuropathy: dose reduced home gabapentin 
from 300 mg QHS to 200 mg QHS iso aspiration and recent altered 
mental status.

#GERD: Continue Omeprazole 40 mg PO DAILY,TRANSITIONAL ISSUES:

- GERD:
[] consider decreasing to 20 mg once daily. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ramelteon 8 mg PO QHS:PRN Insomnia 
2. Acetaminophen 500 mg PO Q6H:PRN Pain - Mild/Fever 
3. Albuterol Inhaler ___ PUFF IH Q4H:PRN Shortness of breath 
4. Apixaban 2.5 mg PO BID 
5. Atorvastatin 80 mg PO QPM 
6. budesonide 1 mg/2 mL inhalation TID 
7. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
8. Artificial Tears GEL 1% 1 DROP BOTH EYES QID 
9. Clopidogrel 75 mg PO DAILY 
10. Docusate Sodium 100 mg PO BID 
11. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
12. Gabapentin 300 mg PO QHS 
13. Ipratropium-Albuterol Neb 1 NEB NEB TID 
14. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
15. Losartan Potassium 25 mg PO DAILY 
16. Metoprolol Succinate XL 50 mg PO DAILY 
17. Mirtazapine 15 mg PO QHS 
18. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN Chest pain 
19. Omeprazole 40 mg PO DAILY 
20. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
21. Senna 8.6 mg PO BID:PRN Constipation - First Line 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 4 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth once a day Disp #*2 
Tablet Refills:*0 
2.  PredniSONE 40 mg PO DAILY Duration: 3 Doses 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*4 
Tablet Refills:*0 
3.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever  
4.  Albuterol Inhaler 2 PUFF IH Q4H:PRN shortness of breath  
5.  Apixaban 2.5 mg PO BID  
6.  Artificial Tears GEL 1% ___ DROP BOTH EYES QID  
7.  Atorvastatin 80 mg PO QPM  
8.  budesonide 1 mg/2 mL inhalation TID  
9.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
10.  Clopidogrel 75 mg PO DAILY  
11.  Docusate Sodium 100 mg PO BID  
12.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
13.  Gabapentin 300 mg PO QHS  
14.  Ipratropium-Albuterol Neb 1 NEB NEB TID  
15.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
16.  Losartan Potassium 25 mg PO DAILY  
17.  Metoprolol Succinate XL 50 mg PO DAILY  
18.  Mirtazapine 15 mg PO QHS  
19.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
20.  Omeprazole 40 mg PO DAILY  
21.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
22.  Ramelteon 8 mg PO QHS  
23.  Senna 8.6 mg PO BID:PRN Constipation - First Line  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Aspiration event, transient hypoxia
SECONDARY: Altered mental status, COPD exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because 
you had an episode of chest pain, shortness of breath and low 
oxygen.  

You were treated for COPD exacerbation and given medication and 
oxygen to make you feel better. We believe this was due to some 
food going down the wrong tube, called aspiration.

When you go home
- Please continue to eat a modified diet. 
- Please take your medications as prescribed.
- Please follow up with your primary ___ doctor

___,
Your ___ ___ Team
 
Followup Instructions:
___